US04051236
4-(Butylamino)-1-ethyl-1,7-dihydro-7-hydroxy-5H-furo-[3,4-e]pyrazolo[3,4-b]pyridin-5-one
10-Chloro-3-ethyl-7,12-dimethyl-7,12-dihydropyrazolo-[4',3':5,6]pyrido[4,3-b][1,5]benzodiazepin-6(3H)-one, said PGE1 being present in a concentration of from about 10-6 molar to about 10-9 molar, and said compound being present in a concentration of from about 0.1 mM to about 4 mM.

reactant | 10-Chloro-3-ethyl-7,12-dimethyl-7,12-dihydropyrazolo-[4',3':5,6]pyrido[4,3-b][1,5]benzodiazepin-6(3H)-one | ClC1=CC2=C(N(C(C3=C(N2C)C2=C(N=C3)N(N=C2)CC)=O)C)C=C1 | C17H16ClN5O
reactant | PGE1 | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O | C20H34O5
product | 4-(Butylamino)-1-ethyl-1,7-dihydro-7-hydroxy-5H-furo-[3,4-e]pyrazolo[3,4-b]pyridin-5-one | C(CCC)NC1=C2C(=NC3=C1C(OC3O)=O)N(N=C2)CC | C14H18N4O3
